US06117365
N-(3,4-Dihydroxybenzyl)-4-hydroxy-3-methoxy-E-cinnamamide (1)
N-succinimidyl ferulate (503 mg, 1.73 mmol) and 3,4-dihydroxybenzylamine hydrobromide (402 mg, 1.83 mmol) were dissolved in water (10 ml) and 1,4-dioxane (10 ml) under nitrogen. After NaHCO3 (160 mg, 1.90 mmol) had been added, the solution was stirred for 2.5-3 h at about 70° C. and left to cool. The mixture was extracted with ethyl acetate, the combined organic phases were washed with hydrochloric acid (10%), water and saturated aqueous NaCl solution, dried over Na2SO4 and filtered, and the filtrate was evaporated under reduced pressure and the residue was purified by chromatography on silica gel. Yield: 540 mg (99%); 1H-NMR (400MHz, CDCl3): δ=7.55 (1H, d, 15.5 Hz), 7.02 (1H, dd, 8.2 Hz, 1.9 Hz), 6.93 (1H, s, 1.9 Hz), 6.89 (1H, d, 8.3 Hz), 6.88 (1H, d, 2Hz), 6.82 (1H, d, 8.1 Hz), 8.72 (1H, dd, 8.1 Hz, 2.0 Hz), 6.51 (1H, s), 6.21 (1H, d, 15.5 Hz), 5.82 (1H, t, 5.8 Hz) 5.79 (1H, s), 5.45 (1H, s), 4.45 (2H, d, 5.8 Hz), 3.90 (3H, s) ppm; 13C-NMR (100 MHz, CDCl3): δ=165.1, 148.2, 147.8, 145.1, 144.1, 139.0, 130.3, 126.4, 121.4, 119.0, 118.3, 115.6, 115.3, 115.0, 110.8, 55.5, 41.9 ppm, MS (EI): m/z=315.1 (100%), 178.1 (66%), 177.1 (84%), 150.1 (36%), 147.0 (22%), 145.1 (46%), 138.1 (83%), 117.1 (24%), 89.0 (24%), 77.1 (22%).

reactant | 3,4-dihydroxybenzylamine hydrobromide | 1.83 mmol, 402 mg | Br.OC=1C=C(CN)C=CC1O
reactant | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | NaHCO3 | 1.90 mmol, 160 mg | C(=O)(O)[O-].[Na+]
solvent | water | 10 ml | O | H2O
product | N-(3,4-Dihydroxybenzyl)-4-hydroxy-3-methoxy-E-cinnamamide | OC=1C=C(CNC(\C=C\C2=CC(=C(C=C2)O)OC)=O)C=CC1O | C17H17NO5
